US08609675B2
Ethyl 8-methyl-1,4-dioxaspiro[4.5]decane-8-carboxylate (Int-18b, 2.09 g, 9.17 mmol) was dissolved in acetonitrile (100 mL) and water (50 mL). Ammonium cerium nitrate (503 mg, 0.92 mmol) in water (50 mL) was added and the resulting mixture was heated up to 70° C. and stirred for 1 h. After being cooled down to room temperature, water (100 mL) was added and the mixture was extracted with ether (100 mL×3). The combined organics were washed with water, brine and dried. After concentration, the residue was purified on a column (silica gel, 0-30% ethyl acetate in hexane) which gave ethyl 1-methyl-4-oxocyclohexanecarboxylate (Int-18c) (1.72 g) as an oil.

reactant | Ethyl 8-methyl-1,4-dioxaspiro[4.5]decane-8-carboxylate | 9.17 mmol, 2.09 g | CC1(CCC2(OCCO2)CC1)C(=O)OCC | C12H20O4
reactant | Ammonium cerium nitrate | 0.92 mmol, 503 mg | [N+](=O)([O-])[O-].[Ce].[NH4+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | water | 50 mL | O | H2O
solvent | water | 50 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | ethyl 1-methyl-4-oxocyclohexanecarboxylate | 1.72 g | CC1(CCC(CC1)=O)C(=O)OCC | C10H16O3
